### PR TITLE
[Merged by Bors] - chore(Topology/Sheaves/Stalks): cleanup

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Topology/Sheaves/Stalks.lean [hunk 1]
```diff
@@ -174,26 +172,25 @@ namespace stalkPushforward
...
 theorem comp (ℱ : X.Presheaf C) (f : X ⟶ Y) (g : Y ⟶ Z) (x : X) :
     ℱ.stalkPushforward C (f ≫ g) x =
       (f _* ℱ).stalkPushforward C g (f x) ≫ ℱ.stalkPushforward C f x := by
-  change (_ : colimit _ ⟶ _) = (_ : colimit _ ⟶ _)
-  ext U
-  rcases U with ⟨⟨_, _⟩, _⟩
-  simp [stalkFunctor, stalkPushforward]
+  ext
+  simp only [germ, stalkPushforward]
+  -- Now `simp` finishes, but slowly:
```
Comment (kbuzzard) [inline Mathlib/Topology/Sheaves/Stalks.lean:188]: You can't (or don't want to?) combine these two `simp only`s into one `simp only`?

**Review by kbuzzard — APPROVED** [review]
Thanks!

bors d+

edit oh yikes I've just seen Sebastian's bors r+; I hope I didn't just break things.

File: Mathlib/Topology/Sheaves/Stalks.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Topology/Sheaves/Stalks.lean:188]: I didn't want to. The first shows what we need to unfold, the second is just a plain `simp` called, converted into `simp only` only because it gives a significant speedup.
